US07173040B2
A mixture of 5-(3chlorophenyl)-α-(4-iodophenyl)-α-(4-methyl-4H-1,2,4-triazol-3-yl)-tetrazolo[1,5-a]quinazoline-7-methanol (0.0076 mol) in thionyl chloride (50 ml) was stirred at 65° C. for 4 hours, then cooled and the solvent was evaporated till dryness. The residue was taken up twice with DCM. The solvent was evaporated, yielding 7-[chloro(4-iodophenyl)(4-methyl-4H-1,2,4-triazol-3-yl)methyl]-5-(3-chlorophenyl)-tetrazolo[1,5-a]quinazoline monohydrochloride. This product was used directly in the next reaction step.

reactant | 5-(3chlorophenyl)-α-(4-iodophenyl)-α-(4-methyl-4H-1,2,4-triazol-3-yl)-tetrazolo[1,5-a]quinazoline-7-methanol | 0.0076 mol | ClC=1C=C(C=CC1)C1=NC=2N(C3=CC=C(C=C13)C(O)(C1=NN=CN1C)C1=CC=C(C=C1)I)N=NN2 | C24H16ClIN8O
reactant | thionyl chloride | 50 ml | S(=O)(Cl)Cl | Cl2OS
product | 7-[chloro(4-iodophenyl)(4-methyl-4H-1,2,4-triazol-3-yl)methyl]-5-(3-chlorophenyl)-tetrazolo[1,5-a]quinazoline monohydrochloride | Cl.ClC(C=1C=C2C(=NC=3N(C2=CC1)N=NN3)C3=CC(=CC=C3)Cl)(C3=NN=CN3C)C3=CC=C(C=C3)I | InChI=1S/C24H15Cl2IN8.ClH/c1-34-13-28-30-22(34)24(26,15-5-8-18(27)9-6-15)16-7-10-20-19(12-16)21(14-3-2-4-17(25)11-14)29-23-31-32-33-35(20)23;/h2-13H,1H3;1H
